US09057950B2
Bis[2-(acryloyloxy)ethyl]terephthalate
A 500 ml round-bottom flask was initially charged with 64.1 g of hydroxyethyl acrylate in 100 ml of pyridine/toluene (1:1, v/v) together with 0.1 g of 2,6-di-tert-butyl-4-methylphenol at 0° C. and 56.1 g of terephthaloyl chloride were slowly added dropwise. The mixture was stirred at room temperature until the hydroxyethyl acrylate content had fallen below 0.1%. Thereafter, the mixture was poured onto 0.5 l of ice-water and acidified with 1 N aqueous hydrochloric acid. The aqueous phase was extracted three times with 0.5 l each time of tert-butyl methyl ether. The organic phase was washed with 10% sodium hydrogencarbonate solution, dried over sodium sulfate and filtered. Another 0.1 g of 2,6-di-tert-butyl-4-methylphenol was added and the organic solvent was distilled off. The product was obtained as a colorless solid.

reactant | hydroxyethyl acrylate | 64.1 g | C(C=C)(=O)OCCO | C5H8O3
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.1 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | terephthaloyl chloride | 56.1 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | pyridine toluene | 100 ml | N1=CC=CC=C1.C1(=CC=CC=C1)C
product | Bis[2-(acryloyloxy)ethyl]terephthalate | C(C=C)(=O)OCCOC(C1=CC=C(C(=O)OCCOC(C=C)=O)C=C1)=O | C18H18O8
